US04704462
A solution of resorcinol (40 g, 0.4 mol) and allyl bromide (32 g, 0.26 mol) in acetone (500 ml) containing potassium carbonate (55 g, 0.4 mol) was heated, with stirring, under reflux for 10 hours. The mixture was filtered, and the filtrate was evaporated to dryness. The residue was purified by means of PrepPak 500/silica on a Waters Associates Prep LC/System 500 at 250 ml/min using hexane-ethyl acetate (8:1, v/v) as a liquid phase. 3-Allyloxyphenol was isolated as a colorless oil (20 g, 51% based on ally bromide); NMR (chloroform-d): δ4.78 (s, OH), 4.55 (d, J=5.5 Hz, CH2CH=CH2), 5.29-5.50 (m, CH2CH=CH2), 6.07 (m, CH2CH=CH2), 7.18 (t, J=8.5 Hz, H-5), 6.46-6.58 (m, remaining Ar--H).

reactant | resorcinol | 0.4 mol, 40 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | allyl bromide | 0.26 mol, 32 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.4 mol, 55 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-Allyloxyphenol | C(C=C)OC=1C=C(C=CC1)O | C9H10O2
